US04551532
3,6-Dioxaheneicosyl 2-pyridinioethyl phosphate
In the same manner as above, 2-[2-(pentadecyloxy)ethoxy]ethyl 2-bromoethyl phosphate is reacted with pyridine to give the title compound.

reactant | 2-[2-(pentadecyloxy)ethoxy]ethyl 2-bromoethyl phosphate | P(=O)(OCCOCCOCCCCCCCCCCCCCCC)(OCCBr)[O-]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,6-Dioxaheneicosyl 2-pyridinioethyl phosphate | P(=O)(OCCOCCOCCCCCCCCCCCCCCC)(OCC[N+]1=CC=CC=C1)[O-] | C26H48NO6P
